US04714774
To a solution of 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]3-bromobenzaldehyde (2.39 g) in acetone (50 ml) was added acetic acid (50 ml). To the well stirred mixture was added pulverized potassium permanganate (1.58 g) by portions at room temperature. The reaction was allowed to proceed while stirring for one hours. The reaction mixture was concentrated under reduced pressure, and the concentrate was subjected to extraction with chloroform. Insoluble materials were filtered off, and the filtrate was washed with a dilute aqueous solution of hydrogen peroxide, then with water. The resulting solution was dried and concentrated to give colorless and clear syrup. Crystallization from aqueous alcohol gave 4-[3-(3-acetoxy-4-acetyl-2 propylphenoxy)propoxy]-3-bromobenzoic acid (2.0 g), m.p. 155°-156° C.

reactant | 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]3-bromobenzaldehyde | 2.39 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C=O)C=C2)Br)C=CC1C(C)=O)CCC | C23H25BrO6
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | potassium permanganate | 1.58 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-[3-(3-acetoxy-4-acetyl-2 propylphenoxy)propoxy]-3-bromobenzoic acid | 2.0 g | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Br)C=CC1C(C)=O)CCC | C23H25BrO7
